US06933311B2
N-[4-(1-azepanyl)benzyl]-2-(5-isoquinolinyl)propanamide
The title compound was prepared using the procedure described in Example 222B using 4-(1-azepanyl)benzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 388 (M+H)+; MS (ESI−) m/z 366 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.53 (m, 7H), 1.72 (m, 4H), 3.85 (s, 2H), 4.03 (q, J 7.1, 1H), 6.76 (m, 3H), 7.26 (m, 2H), 7.58 (m, 1H), 7.71 (m, 1H), 8.10 (m, 2H), 8.72 (t, J 5.8, 1H), 9.91 (s, 1H); Anal. Calcd for C25H29N3O+2.15 HCl+2H2O: C, 59.82; H, 7.06. Found: C, 59.59; H, 7.28.

reactant | 4-(1-azepanyl)benzylamine | N1(CCCCCC1)C1=CC=C(CN)C=C1 | C13H20N2
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-[4-(1-azepanyl)benzyl]-2-(5-isoquinolinyl)propanamide | N1(CCCCCC1)C1=CC=C(CNC(C(C)C2=C3C=CN=CC3=CC=C2)=O)C=C1 | C25H29N3O
